US04840953
(1) Preparation of 3-ethoxycarbonyl-9-benzylthio-4H-pyrido[1,2-a]pyrimidin-4-one Ic-21.
To a suspension of 0.3 g of 3-ethoxycarbonyl-9-mercapto-4H-pyrido[1,2-a]pyrimidin-4-one II-1 in 4 ml of anhydrous DMF are added 0.3 g of benzyl bromide VI-1 and 0.5 g of K2CO3, and the resultant mixture is stirred at room temperature for 5 hours. The reaction mixture is diluted with water. The crystal precipitated is filtered and dissolved in CHCl3. The chloroform solution is dried over Na2SO4 and evaporated to give 0.389 g of the titled compound Ic-21.

reactant | 3-ethoxycarbonyl-9-mercapto-4H-pyrido[1,2-a]pyrimidin-4-one | 0.3 g | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2S | C11H10N2O3S
reactant | benzyl bromide | 0.3 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 0.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-ethoxycarbonyl-9-benzylthio-4H-pyrido[1,2-a]pyrimidin-4-one | 0.389 g, Yield: 95.3% | C(C)OC(=O)C1=CN=C2N(C1=O)C=CC=C2SCC2=CC=CC=C2 | C18H16N2O3S
